US07589205B2
B2. (3R,4R)-3-(3-Ethoxy-4-methoxy-phenyl)-tetrahydro-thiopyran-4-ylamine hydrochloride
A mixture of 3.6 g of 10% Pd catalyst on charcoal and 4 mmol of (3R,4R)-3-(3-ethoxy-4-methoxyphenyl)-N-[(1R)-1-phenylethyl]tetrahydro-2H-thiopyran-4-amine hydrochloride in 100 ml of methanol is hydrogenated with 110 mbar hydrogen pressure at reflux temperature for 5 h. Additional 3.6 g of the Pd catalyst are added and the hydrogenation is continued for further 5 h. The catalyst is filtered off and the filtrate concentrated yielding the title compound as a highly viscous resin which is used for the next reaction steps without further purification.

reactant | (3R,4R)-3-(3-ethoxy-4-methoxyphenyl)-N-[(1R)-1-phenylethyl]tetrahydro-2H-thiopyran-4-amine hydrochloride | 4 mmol | Cl.C(C)OC=1C=C(C=CC1OC)[C@H]1CSCC[C@H]1N[C@H](C)C1=CC=CC=C1
reactant | hydrogen | [H][H] | H2
catalyst | Pd | 3.6 g | [Pd] | Pd
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd | 3.6 g | [Pd] | Pd
product | (3R,4R)-3-(3-Ethoxy-4-methoxy-phenyl)-tetrahydro-thiopyran-4-ylamine hydrochloride | Cl.C(C)OC=1C=C(C=CC1OC)[C@H]1CSCC[C@H]1N | InChI=1S/C14H21NO2S.ClH/c1-3-17-14-8-10(4-5-13(14)16-2)11-9-18-7-6-12(11)15;/h4-5,8,11-12H,3,6-7,9,15H2,1-2H3;1H/t11-,12-;/m1./s1
